US07888352B2
2-Chloro-4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidine (630 mg) was reacted with glycolic acid via General Procedure B to give 1-(4-((2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-hydroxyethanone.

reactant | 2-Chloro-4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidine | 630 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCNCC2)N2CCOCC2 | C15H20ClN5OS
reactant | glycolic acid | C(CO)(=O)O | C2H4O3
product | 1-(4-((2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-hydroxyethanone | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C(CO)=O)N2CCOCC2 | C17H22ClN5O3S
